US04460580
11.5 g of 5-(2-methyl-2-nitro-propoxy)-salicylamide in 150 ml of methanol is hydrogenated at 40°-50° and 80 bars, with 5 g Raney Nickel, until the absorption of hydrogen ceases. Filtration and concentration by evaporation of the reaction mixture yield crude 5-(2-amino-2-methyl-propoxy)-salicylamide, which on prolonged standing crystallises from isopropanol, and melts at 115°-117°.

reactant | 5-(2-methyl-2-nitro-propoxy)-salicylamide | 11.5 g | CC(COC1=CC=C(C(C(=O)N)=C1)O)(C)[N+](=O)[O-] | C11H14N2O5
solvent | methanol | 150 ml | CO | CH4O
product | 5-(2-amino-2-methyl-propoxy)-salicylamide | NC(COC1=CC=C(C(C(=O)N)=C1)O)(C)C | C11H16N2O3
